US07776857B2
A scintillation vial was charged with (5-(4-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenylamino)phthalazin-1-yl)thiophen-3-yl)methyl acetate (137 mg, 249 μmol), 1.0 mL 3:1:1 THF:MeOH:water and lithium hydroxide (47.8 mg, 1994 μmol). The homogeneous mixture was stirred at RT for 2 h. Water was added to the mixture, and the precipitated solids were filtered, washed with water, and dried. The crude solids were purified by reverse phase chromatography, Gilson, 10-90% 0.1% TFA/ACN in water to provide (5-(4-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenylamino)phthalazin-1-yl)thiophen-3-yl)methanol. MS: [M+H]=508.

reactant | (5-(4-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenylamino)phthalazin-1-yl)thiophen-3-yl)methyl acetate | 249 μmol, 137 mg | C(C)(=O)OCC1=CSC(=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=CN=C12)OC | C30H23N5O4S
reactant | THF | C1CCOC1 | C4H8O
reactant | MeOH | CO | CH4O
reactant | lithium hydroxide | 1994 μmol, 47.8 mg | [OH-].[Li+]
solvent | Water | O | H2O
product | (5-(4-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenylamino)phthalazin-1-yl)thiophen-3-yl)methanol | COC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC(=CS1)CO | C28H21N5O3S
